US05164397
d) 3-[4-(3-Chlorophenyl)piperazin-1-yl]propanamine
Gaseous hydrochloric acid is introduced for 10 min into a round bottom flask containing 11.2 g (22.6 mmol) of 3-[4-(3-chlorophenyl]piperazin-1-yl]-N-(triphenylmethyl)propanamine and 300 ml of methanol, while the mixture is cooled in a bath of iced water. The mixture is allowed to return to room temperature and is then heated under reflux for 5.5 h. The solution is reduced to half its volume and is allowed to cool. The solid which precipitates is filtered off, is treated with water and aqueous ammonia, the mixture is extracted with ethyl acetate, the organic phase is washed with water and is dried and the solvent is evaporated off. 3.9 g of light yellow oil are obtained.

reactant | hydrochloric acid | Cl | ClH
reactant | 3-[4-(3-chlorophenyl]piperazin-1-yl]-N-(triphenylmethyl)propanamine | 22.6 mmol, 11.2 g | ClC=1C=C(C=CC1)N1CCN(CC1)CCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H34ClN3
reactant | methanol | 300 ml | CO | CH4O
solvent | water | O | H2O
product | 3-[4-(3-Chlorophenyl)piperazin-1-yl]propanamine | 3.9 g | ClC=1C=C(C=CC1)N1CCN(CC1)CCCN | C13H20ClN3
